US04371536
2.81 g of 6-cyano-4-methyl-β-carbolin-3-carboxylic acid ethyl ester is heated with 4.6 g of potassium hydroxide in 20 ml of ethylene glycol for 16 hours at 150° C. After cooling to 0° C., 10 ml of acetic acid is added dropwise. The mixture is diluted with 100 ml of water and, after saturation with sodium chloride, is extracted with ethyl acetate. The extracts are washed until neutral with saturated common salt solution, dried using sodium sulphate, filtered, and the solvent is distilled off in vacuo. The crude product is dissolved in 30 ml of 10% methanolic hydrochloric acid and boiled for 5 hours under reflux. After distilling off the solvent in vacuo, 20 ml of dilute aqueous ammonia are added and the mixture is extracted with ethyl acetate. After washing until neutral, drying and distilling off the solvent, the crude product is recrystallized from diisopropyl ether. 1.36 g of 4-methyl-β-carbolin-3,6-dicarboxylic acid dimethyl ester of melting point 199°-204° C. is obtained.

reactant | 6-cyano-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 2.81 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C#N | C16H13N3O2
reactant | potassium hydroxide | 4.6 g | [OH-].[K+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethylene glycol | 20 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 4-methyl-β-carbolin-3,6-dicarboxylic acid dimethyl ester | 1.36 g | COC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C(=O)OC | C16H14N2O4
